US08222269B2
Step 2: Methyl (3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)[(dimethylamino)sulfonyl]acetate (Compound 2-2)
A 200 mL round bottom flask was charged with methyl [(dimethylamino)sulfonyl]acetate (5.26 g, 29.0 mmol) and dioxane (77 ml), cooled to 0° C. and then sodium hydride (2.321 g, 58.0 mmol) was added in one portion. After 15 min., the mixture was warmed to room temperature and 7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (6.20 g, 19.34 mmol) was added followed by Pd2(dba)3 (0.708 g, 0.774 mmol) and triphenylphosphine (1.217 g, 4.64 mmol). The resulting suspension was degassed by sparging with nitrogen for 30 min. Then, the mixture was heated to 70° C. and left to stir overnight. The reaction was then cooled to room temperature, poured into brine (500 mL) and extracted with dichloromethane (3×150 mL). The combined organics were then dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (EtOAc/Hexanes gradient) to afford the title compound as a yellow oil that solidified to a yellow solid upon standing. 1H NMR (600 MHz, DMSO-D6) δ 9.00 (d, 1H); 8.49 (d, 1H); 8.47 (d, 1H); 8.07 (dd, 1H); 7.88 (d, 1H); 7.48 (d, 1H); 7.34 (d, 1H); 6.05 (s, 1H); 3.75 (s, 3H); 2.68 (s, 6H). LRMS (APCI) calculated for C19H18ClN2O5S [M+H]+, 421.1. found 421.0.

reactant | methyl [(dimethylamino)sulfonyl]acetate | 29.0 mmol, 5.26 g | CN(S(=O)(=O)CC(=O)OC)C | C5H11NO4S
reactant | sodium hydride | 58.0 mmol, 2.321 g | [H-].[Na+]
reactant | 7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 19.34 mmol, 6.20 g | BrC=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1 | C14H7BrClNO
reactant | triphenylphosphine | 4.64 mmol, 1.217 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | Pd2(dba)3 | 0.774 mmol, 0.708 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 77 ml | O1CCOCC1 | C4H8O2
product | Methyl (3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)[(dimethylamino)sulfonyl]acetate | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(C(=O)OC)S(=O)(=O)N(C)C | C19H17ClN2O5S
